US07834063B2
4-[{3-[(4-Fluorophenyl)oxy]propyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(3-hydroxypropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-fluorophenol: MS (ES) m/z 421 (M+1)

reactant | 4-[(3-hydroxypropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C13H12F6N2O
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 4-[{3-[(4-Fluorophenyl)oxy]propyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | FC1=CC=C(C=C1)OCCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C19H15F7N2O
